// tb_not_gate.scs â€?NOT gate inversion check
// Input toggles every 2 ns: 0â†?â†?â†?
//   t=0..2n   A=0 â†?out=1
//   t=2..4n   A=1 â†?out=0
//   t=4..6n   A=0 â†?out=1
//   t=6..8n   A=1 â†?out=0
simulator lang=spectre
global 0

ahdl_include "not_gate.va"

VA (a 0) vsource type=pwl wave=[0 0  1.985n 0  2.015n 0.8 \
                                 3.985n 0.8  4.015n 0 \
                                 5.985n 0    6.015n 0.8  8n 0.8]

IDUT (a y) not_gate

tran tran stop=8n maxstep=0.1n
save a y

